US06924284B2
3-(3-Phenyl-1,2,4-oxadiazol-5-yl)propionic acid;
3-[3-(4-Chlorophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Bromophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Fluorophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Nitrophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Trifluoromethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Difluoromethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Hydroxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Hydroxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Methylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Methylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Ethylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Dimethylaminomethylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Dimethylaminomethylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-{3-[3-(2-Dimethylaminoethoxy)phenyl]-1,2,4-oxadiazol-5-yl}propionic acid; 3-{3-[4-(2-Morpholin-4-ylethoxy)phenyl]-1,2,4-oxadiazol-5-yl}propionic acid; 3-[3-(2,3-Dichlorophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3,4-Difluorophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Chloro-4-methylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3-Fluoro-4-methylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Chloro-3-fluorophenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3,4-Methylenedioxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Methylsulfanylphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(4-Methoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(2,3-Dimethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(2,4-Dimethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(2,5-Dimethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(2,6-Dimethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(3,5-Dimethoxyphenyl-1,2,4-oxadiazol-5-yl)]propionic acid; 3-[3-(Thiophen-2-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(Thiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(2,3-Dihydrobenzofuran-5-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(2-Methylthiazol-4-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(6-Methoxypyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(6-Hydroxypyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(5-Nitrothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(2-Methylthiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; and 3-[3-(2-Ethylthiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid.

reactant | 3-{3-[3-(2-Dimethylaminoethoxy)phenyl]-1,2,4-oxadiazol-5-yl}propionic acid | CN(CCOC=1C=C(C=CC1)C1=NOC(=N1)CCC(=O)O)C | C15H19N3O4
reactant | 3-{3-[4-(2-Morpholin-4-ylethoxy)phenyl]-1,2,4-oxadiazol-5-yl}propionic acid | N1(CCOCC1)CCOC1=CC=C(C=C1)C1=NOC(=N1)CCC(=O)O | C17H21N3O5
reactant | 3-[3-(Thiophen-2-yl)-1,2,4-oxadiazol-5-yl]propionic acid | S1C(=CC=C1)C1=NOC(=N1)CCC(=O)O | C9H8N2O3S
reactant | 3-[3-(Thiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | S1C=C(C=C1)C1=NOC(=N1)CCC(=O)O | C9H8N2O3S
reactant | 3-[3-(2,3-Dihydrobenzofuran-5-yl)-1,2,4-oxadiazol-5-yl]propionic acid | O1CCC2=C1C=CC(=C2)C2=NOC(=N2)CCC(=O)O | C13H12N2O4
reactant | 3-[3-(2-Methylthiazol-4-yl)-1,2,4-oxadiazol-5-yl]propionic acid | CC=1SC=C(N1)C1=NOC(=N1)CCC(=O)O | C9H9N3O3S
reactant | 3-[3-(6-Methoxypyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | COC1=CC=C(C=N1)C1=NOC(=N1)CCC(=O)O | C11H11N3O4
reactant | 3-[3-(6-Hydroxypyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | OC1=CC=C(C=N1)C1=NOC(=N1)CCC(=O)O | C10H9N3O4
reactant | 3-[3-(5-Nitrothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | [N+](=O)([O-])C1=CC(=CS1)C1=NOC(=N1)CCC(=O)O | C9H7N3O5S
reactant | 3-[3-(2-Methylthiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | CC=1SC=CC1C1=NOC(=N1)CCC(=O)O | C10H10N2O3S
reactant | 3-[3-(2-Ethylthiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | C(C)C=1SC=CC1C1=NOC(=N1)CCC(=O)O | C11H12N2O3S
product | 3-(3-Phenyl-1,2,4-oxadiazol-5-yl)propionic acid | C1(=CC=CC=C1)C1=NOC(=N1)CCC(=O)O | C11H10N2O3
